US07494999B2
4-(5-Trifluoromethyl-pyridin-2-yl)-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (110 mg, 0.28 mmol) was combined with 2.0 mL of 25% TFA/CH2Cl2 and was stirred at room temperature for 30 min. After this period the reaction mixture was diluted with CH2Cl2 (25 mL) and was washed with sat'd NaHCO3 (2×10 mL) and brine. The resulting CH2Cl2 layer was dried over anhydrous Na2SO4 and was evaporated in vacuo to yield crude amine. The crude amine was purified using flash silica chromatography (0-10% MeOH/CH2Cl2) to yield 77 mg (94%) of (R)-4-(5-trifluoromethyl-pyridin-2-yl)-piperazine-2-carboxylic acid methyl ester as a yellow residue. This material was combined with 6-Chlorosulfonyl-indan-1-carboxylic acid 4-nitro-benzyl ester from Step 2 (102 mg, 0.27 mmoles) and triethylamine (46 μL, 0.33 mmol) in 2.0 mL of anhydrous THF, and was stirred at 60° C. for 5 hours. After this period the reaction mixture was evaporated in vacuo and the resulting residue was combined with 30 mL of benzene. The resulting heterogeneous mixture was filtered with benzene washings. The filtrate was then evaporated in vacuo and purified using flash silica chromatography (0-30% EtOAc/Hexane) to yield 4-[3-(4-Nitro-benzyloxycarbonyl)-indane-5-sulfonyl]-1-(5-trifluoromethyl-pyridin-2-yl)-piperazine-2-carboxylic acid methyl ester.

reactant | 4-(5-Trifluoromethyl-pyridin-2-yl)-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 0.28 mmol, 110 mg | COC(=O)C1CN(CCN1C1=NC=C(C=C1)C(F)(F)F)C(=O)OC(C)(C)C | C17H22F3N3O4
reactant | TFA CH2Cl2 | 2.0 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-(5-trifluoromethyl-pyridin-2-yl)-piperazine-2-carboxylic acid methyl ester | 77 mg, 94% | COC(=O)[C@@H]1NCCN(C1)C1=NC=C(C=C1)C(F)(F)F | C12H14F3N3O2
